US06531491B1
A solution of 6-amino-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole (500 mg, 0.98 mmol) in acetic acid (1.5 mL) was diluted with H2O (1.0 mL) and stirred at 0° C. Concentrated HCl (250 μL, ˜3 mmol) in H2O (250 μL) was added. Sodium nitrate (90 mg, 1.3 mmol) in H2O (300 μL) was added, and the reaction stirred for 8 min. Iodine (10 mg) and a solution of potassium iodide (250 mg, 1.3 mmol) in H2O (250 μL) were added, and the frothing reaction stirred for 30 min at 23° C. The reaction was diluted with H2O (25 mL) and extracted with ethyl acetate (2×20 mL). Organics were washed with saturated sodium metabisulfite solution (10 mL) and brine (10 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography (8% ethyl acetate/hexanes) gave 316 mg (52%) of 6-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole as a faintly yellow oil, which slowly crystallized to a white solid. 1H NMR (300 MHz, CDCl3) δ 8.45 (d, 1H, J=9.0 Hz), 8.05 (s, 1H), 7.91-7.88 (m, 1H), 7.67-7.62 (m, 2H), 7.38-7.34 (m, 2H), 6.24 (s, 2H), 5.77 (s, 2H), 3.65-3.57 (m, 4H), 0.93 (t, 2H, J=8.1 Hz), 0.85 (t, 2H, J=8.1 Hz), −0.04 (s, 9H), −0.15 (s, 9H). Anal. (C26H37IN4O2Si2) C, H, N. Calculated: C, 50.31; H, 6.01; N, 9.03. Found: C, 50.55; H, 6.08; N, 9.00.

reactant | 6-amino-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole | 0.98 mmol, 500 mg | NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C26H39N5O2Si2
reactant | HCl | ˜3 mmol, 250 μL | Cl | ClH
reactant | Sodium nitrate | 1.3 mmol, 90 mg | [N+](=O)([O-])[O-].[Na+]
reactant | potassium iodide | 1.3 mmol, 250 mg | [I-].[K+]
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 1.0 mL | O | H2O
solvent | H2O | 250 μL | O | H2O
solvent | H2O | 300 μL | O | H2O
solvent | H2O | 250 μL | O | H2O
solvent | H2O | 25 mL | O | H2O
catalyst | Iodine | 10 mg | II | I2
product | 6-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole | 316 mg, 52% | IC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C26H37IN4O2Si2
